US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[[1-(2-cyanopyridin-4-yl)piperidin-4-ylmethyl]amino]-5-methoxycarbonylbenzamide
Using a similar procedure to that described in Example 52, N-(5-chloropyridin-2-yl)-5-methoxycarbonyl-2-[(4-piperidinylmethyl)amino]benzamide (0.30 g, 0.74 mmol) and 4-chloro-2-cyanopyridine (0.21 g, 1.5 mmol) afforded 360 mg (96%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-5-methoxycarbonyl-2-[(4-piperidinylmethyl)amino]benzamide | 0.74 mmol, 0.30 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)NCC1CCNCC1)=O | C20H23ClN4O3
reactant | 4-chloro-2-cyanopyridine | 1.5 mmol, 0.21 g | ClC1=CC(=NC=C1)C#N | C6H3ClN2
product | N-(5-Chloropyridin-2-yl)-2-[[1-(2-cyanopyridin-4-yl)piperidin-4-ylmethyl]amino]-5-methoxycarbonylbenzamide | 360 mg, 96% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(=O)OC)NCC1CCN(CC1)C1=CC(=NC=C1)C#N)=O | C26H25ClN6O3
